US05624935
5-Isopropoxy-2-hydroxymethyl-3methyl-3H-imidazo[4,5-b]pyridine
A procedure similar to that described in Preparation 43 was repeated, except that 1.90 g of 3-amino-6-isopropoxy-2-methylaminopyridine (prepared as described in Preparation 101), and 2.39 g of glycolic acid were used, and that the product was purified by column chromatography through silica gel, using a 10:1 by volume mixture of ethyl acetate and methanol, to give 0.58 g of the title compound, melting at 125°-127° C.

reactant | 3-amino-6-isopropoxy-2-methylaminopyridine | 1.90 g | NC=1C(=NC(=CC1)OC(C)C)NC | C9H15N3O
reactant | glycolic acid | 2.39 g | C(CO)(=O)O | C2H4O3
product | 5-Isopropoxy-2-hydroxymethyl-3methyl-3H-imidazo[4,5-b]pyridine | 0.58 g | C(C)(C)OC1=CC=C2C(=N1)N(C(=N2)CO)C | C11H15N3O2
